US05900475
Preparation of (2-chloroethyl)dimethyldodecylammonium bromide
Into a 1000 mL, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged N,N-dimethyldodecylamine (186.46 grams, 0.875 moles), 1-bromo-2-chloroethane (125.60 grams, 0.875 moles) and methanol (150 mL). The reaction was maintained at 65° C. for 48 hours. Solvent was removed by rotary evaporation under reduced pressure to yield brown oil. The oil was placed in a beaker and stirred with t-butylmethylether (2 L) causing a brownish white precipitate to form. The solids were collected by vacuum filtration. Solids were dried in a vacuum oven at 30° C. overnight Yield 197.0 grams (0.55 moles, 63%).

reactant | N,N-dimethyldodecylamine | 0.875 moles, 186.46 grams | CN(C)CCCCCCCCCCCC | C14H31N
reactant | 1-bromo-2-chloroethane | 0.875 moles, 125.60 grams | BrCCCl | C2H4BrCl
reactant | methanol | 150 mL | CO | CH4O
solvent | t-butylmethylether | 2 L | C(C)(C)(C)OC | C5H12O
product | (2-chloroethyl)dimethyldodecylammonium bromide | [Br-].ClCC[N+](CCCCCCCCCCCC)(C)C | InChI=1S/C16H35ClN.BrH/c1-4-5-6-7-8-9-10-11-12-13-15-18(2,3)16-14-17;/h4-16H2,1-3H3;1H/q+1;/p-1
